US06326369B1
7-(2-Hydroxyethyl)-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a mixture of 2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethanol (800 mg), 2,6-pyridinedicarboxylic acid (1.29 g), THF (16 ml), and water (8 ml) was dropwise added a solution of CAN (5.65 g) in water (8 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=2:1) and then with recrystallization from hexane-ethyl acetate to yield the entitled compound (479 mg) as crystals.

reactant | 2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethanol | 800 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCO)OC)OC)OC | C17H26O5
reactant | 2,6-pyridinedicarboxylic acid | 1.29 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 16 ml | C1CCOC1 | C4H8O
reactant | CAN | 5.65 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | water | 8 ml | O | H2O
solvent | water | 8 ml | O | H2O
product | 7-(2-Hydroxyethyl)-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 479 mg | OCCC1CCC2=C(CC1)C(C(=C(C2=O)OC)OC)=O | C15H20O5
